US07538111B2
4-[2-(1-piperidinyl)-1,1-dimethylethyl]pyridine
A suspension of 70 g (0.58 M) of 4-isopropylpyridine, 250 g (2 M) of piperidine hydrochloride and 85 g of paraformaldehyde in 600 ml of 95% ethanol is held under reflux for 48 hours. The reaction mixture is then concentrated under reduced pressure and the residue is taken up with 650 ml of 3N sodium hydroxide and extracted with thrice 250 ml of ethyl acetate. The combined organic phases are washed with a solution of sodium chloride, dried and concentrated under reduced pressure. The crude product is distilled under a vacuum of 1 mm Hg and the fraction collected between 80 and 125° C. is purified by silica gel chromatography in eluting with the aid of a toluene/isopropanol mixture (9/1; v/v). 21.4 g of the compound sought after are thus obtained as a clear yellow oil (yield=17%).

reactant | 4-isopropylpyridine | 0.58 M, 70 g | C(C)(C)C1=CC=NC=C1 | C8H11N
reactant | piperidine hydrochloride | 2 M, 250 g | Cl.N1CCCCC1
reactant | paraformaldehyde | 85 g | C=O | CH2O
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 4-[2-(1-piperidinyl)-1,1-dimethylethyl]pyridine | yield=17% | N1(CCCCC1)CC(C)(C)C1=CC=NC=C1 | C14H22N2
